US07504433B2
1-(2-Methyl-5-phenyl-thiophen-3-yl)-ethanol
To a solution of 1-(2-Methyl-5-phenyl-thiophen-3-yl)-ethanone (1.08 g, 5.00 mmole) in THF (20 mL), is added to LiBH4 (0.327 g, 15.0 mmole) in one portion at 0° C. The reaction is kept at 0° C. for 30 minutes and warmed up to room temperature for 2 hours. The reaction is quenched using NH4Cl(aq) (50 mL) at 0° C. The THF is removed on rota vapor, the aqueous solution is then extracted with ethyl acetate (3×50 mL). The combined organic solution is dried over Na2SO4 and concentrated to provide the titled compound as white solid, which is used for the next step without further purification.

reactant | 1-(2-Methyl-5-phenyl-thiophen-3-yl)-ethanone | 5.00 mmole, 1.08 g | CC=1SC(=CC1C(C)=O)C1=CC=CC=C1 | C13H12OS
reactant | LiBH4 | 15.0 mmole, 0.327 g | [Li+].[BH4-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(2-Methyl-5-phenyl-thiophen-3-yl)-ethanol | CC=1SC(=CC1C(C)O)C1=CC=CC=C1 | C13H14OS
